US07659263B2
To a solution of methyl 5-methylthiophene-2-carboxylate (40.8 g, 260 mmol) in conc. sulfuric acid (400 ml) was added dropwise a solution of fuming nitric acid (16.5 ml, 391 mmol) in conc. sulfuric acid (100 ml) under ice-cooling in such a manner that the inside temperature did not exceed 5° C. After the completion of the dropwise addition, the mixture was stirred under ice-cooling for 30 min, and poured slowly into ice (1 kg). The precipitated solid was washed with water (500 ml×6) and dried under reduced pressure to give methyl 4-nitro-5-methylthiophene-2-carboxylate (35.1 g, yield 67%).

reactant | methyl 5-methylthiophene-2-carboxylate | 260 mmol, 40.8 g | CC1=CC=C(S1)C(=O)OC | C7H8O2S
reactant | nitric acid | 391 mmol, 16.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 4-nitro-5-methylthiophene-2-carboxylate | 35.1 g, yield 67% | [N+](=O)([O-])C=1C=C(SC1C)C(=O)OC | C7H7NO4S
